US07169805B2
1-[(4-chlorobutoxycarbonyl)-L-alanyl-(2S)-3-mercapto-2-methyl-1-oxopropyl]-L-proline (3.15 g, 0.0078 Mol) was dissolved in CH3CN (100 ml) and NaI (11.7 g, 0.078 Mol) was added to the solution. The mixture was refluxed for 7 h, then concentrated and diluted with CH2Cl2. The solid formed was filtered off and the organic phase was washed with H2O (3×50 ml), dried over sodium sulphate and evaporated under reduced pressure affording 1-[(4-iodobutoxycarbonyl)-L-alanyl-(2S)-3-mercapto-2-methyl-1-oxopropyl]-L-proline (4.03 g) as a foam that was used without further purification.

reactant | 1-[(4-chlorobutoxycarbonyl)-L-alanyl-(2S)-3-mercapto-2-methyl-1-oxopropyl]-L-proline | 0.0078 Mol, 3.15 g | ClCCCCOC(=O)N[C@@H](C)C(=O)C([C@H](C(=O)N1[C@H](C(=O)O)CCC1)C)S | C17H27ClN2O6S
reactant | NaI | 0.078 Mol, 11.7 g | [Na+].[I-]
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | 1-[(4-iodobutoxycarbonyl)-L-alanyl-(2S)-3-mercapto-2-methyl-1-oxopropyl]-L-proline | 4.03 g | ICCCCOC(=O)N[C@@H](C)C(=O)C([C@H](C(=O)N1[C@H](C(=O)O)CCC1)C)S | C17H27IN2O6S
